US09023864B2
(7-{5-[(2,6-dichlorophenoxy)methyl]-1H-1,2,3-triazol-1-yl}-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetic acid
The title compound was prepared using analogous procedures described in EXAMPLE 3 from propyl (7-azido-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate and 2,6-dichlorophenyl prop-2-yn-1-yl ether. 1H NMR (400 MHz, DMSO-d6): δ 12.14 (s, 1 H), 7.91 (s, 1 H), 7.54 (d, 2 H), 7.49 (d, 1 H), 7.35 (d, 1 H), 7.25 (t, 1 H), 7.11-7.00 (m, 2 H), 5.48-5.32 (m, 3 H), 4.78 (dd, 1 H), 4.37 (t, 1 H), 3.62 (d, 2 H), 3.43-3.34 (m, 1 H), 3.24-3.09 (m, 1 H), 3.09-2.97 (m, 1 H). MS (+ESI) m/z: 471.1.

reactant | propyl (7-azido-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate | N(=[N+]=[N-])C1CCC=2N(C3=CC=CC=C3C2CC(=O)OCCC)C1 | C17H20N4O2
reactant | 2,6-dichlorophenyl prop-2-yn-1-yl ether | C(C#C)OC1=C(C=CC=C1Cl)Cl | C9H6Cl2O
product | (7-{5-[(2,6-dichlorophenoxy)methyl]-1H-1,2,3-triazol-1-yl}-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetic acid | ClC1=C(OCC2=CN=NN2C2CCC=3N(C4=CC=CC=C4C3CC(=O)O)C2)C(=CC=C1)Cl | C23H20Cl2N4O3
